US07253196B2
Ethyl 2-bromo-2-(pyridin-4-yl)propanoate
The above compounds were prepared according to the procedure reported in the literature: see D. Yang, J. Org. Chem. 2002, 67, 7429. MS: 258, 260 (M+1). To a solution of ethyl 2-(pyridin-4-yl)propanoate (5.3 g, 30 mmol), Mg(ClO4)2 (Aldrich, 2.0 g, 9.0 mmol) in CH3CN (60 mL) was added N-bromosuccinimide (Aldrich, 5.9 g, 33 mmol) at room temperature. After 2 h, the reaction mixture was diluted with ether (200 mL), and 10% Na2CO3. The organic phase was separated, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography. Mass Spec. m/z+ion 258, 260 (M+1).

reactant | ethyl 2-(pyridin-4-yl)propanoate | 30 mmol, 5.3 g | N1=CC=C(C=C1)C(C(=O)OCC)C | C10H13NO2
reactant | N-bromosuccinimide | 33 mmol, 5.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH3CN | 60 mL | CC#N | C2H3N
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | Ethyl 2-bromo-2-(pyridin-4-yl)propanoate | BrC(C(=O)OCC)(C)C1=CC=NC=C1 | C10H12BrNO2
